US03932167
Preparation of 2-Amino-4-benzylamino-6-(trifluoromethyl)-s-triazine ##SPC9##
To benzylbiguanide hydrochloride (11.3 g., 0.05 mole) in methanol (270 ml.) is added powdered sodium methoxide (5.4 g., 0.1 mole) followed by methyl trifluoroacetate (6.4 g., 0.05 mole) dropwise with stirring. The solution is stirred at room temperature for 64 hours, then poured into ice-water (500 ml.) and a white solid precipitated and is filtered off, m.p. 183°-185°C. Crystallization from acetonitrile affords colorless cubic crystals, m.p. 184°-185°C. Yield 8 g. (60%)

reactant | benzylbiguanide hydrochloride | 0.05 mole, 11.3 g | Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)N
reactant | sodium methoxide | 0.1 mole, 5.4 g | C[O-].[Na+]
reactant | methyl trifluoroacetate | 0.05 mole, 6.4 g | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | methanol | 270 ml | CO | CH4O
product | 2-Amino-4-benzylamino-6-(trifluoromethyl)-s-triazine | NC1=NC(=NC(=N1)NCC1=CC=CC=C1)C(F)(F)F | C11H10F3N5
